US04496737
N-Sulfamyl-3-[(2-guanidinothiazol-4-yl)methylthio]propionamide
To a solution of S-(2-guanidino-4-thiazolylmethyl)isothiourea dihydrochloride (307 mg, 1.0 mmol) in methanol (5 ml) under a nitrogen atomosphere there was added 1.0 N sodium hydroxide (3 ml, 3.0 mmol). After stirring for 1/2 hour, a solution of N-sulfamyl acrylamidine (169 mg, 1.0 mol) in methanol (3 ml) was added. There was an instantaneous reaction to give product as indicated by TLC. After stirring for several hours, solvents were evaporated and the residue chromatographed on silica gel eluting with 10-15% methanol/chloroform to obtain pure product. When these fractions were combined and evaporated and the residue dissolved in a minimum amount of methanol and diluted with chloroform, the product slowly crystallized, 120 mg, mp 160°. A mixed melting point with authentic product was not depressed.

reactant | S-(2-guanidino-4-thiazolylmethyl)isothiourea dihydrochloride | 1.0 mmol, 307 mg | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CSC(N)=N
reactant | sodium hydroxide | 3.0 mmol, 1.0 N, 3 ml | [OH-].[Na+]
reactant | N-sulfamyl acrylamidine | 1.0 mol, 169 mg | S(N)(=O)(=O)NC(C=C)=N | C3H7N3O2S
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
product | N-Sulfamyl-3-[(2-guanidinothiazol-4-yl)methylthio]propionamide | S(N)(=O)(=O)NC(CCSCC=1N=C(SC1)NC(=N)N)=O | C8H14N6O3S3
